US07205433B2
L-alanine (1.50 g, 16.84 mmol) and 4-ethylbenzenesulfonic acid (4-EBS) (3.76 g, 20.20 mmol) were added to ethanol (15 ml), and the mixture was heated overnight at 70 EC to perform esterification. To complete the esterification reaction, the mixture was heated to 90 EC, and ethanol (200 ml) was added over 3.5 hours, while distilling away almost the same amount of ethanol. Thereafter, the solvent was evaporated under reduced pressure, and the residue was dried under reduced pressure. The obtained oily residue was cooled in a refrigerator to allow partial crystallization. Diethyl ether (5 ml) and ethyl acetate (5 ml) were added, the residue was completely dissolved at 40° C., and the mixture was stirred at room temperature. Since crystallization occurred when a vessel containing the reaction solution was immersed in ice water, ethyl acetate (15 ml) was further added, and the mixture was stirred at room temperature to give a slurry. This slurry was cooled overnight in a refrigerator, and the crystals were separated and dried to give 2.98 g of L-alanine ethyl ester 4-ethylbenzenesulfonate (L-Ala-OEt 4-EBS salt) dry crystals (L-Ala-OEt 4-EBS salt content 98.5%, 9.67 mmol, yield 57.4%).

reactant | L-alanine | 16.84 mmol, 1.50 g | N[C@@H](C)C(=O)O | C3H7NO2
reactant | 4-ethylbenzenesulfonic acid | 20.20 mmol, 3.76 g | C(C)C1=CC=C(C=C1)S(=O)(=O)O | C8H10O3S
solvent | ethanol | 200 ml | C(C)O | C2H6O
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | L-alanine ethyl ester 4-ethylbenzenesulfonate | 2.98 g, yield 57.4% | C(C)C1=CC=C(C=C1)S(=O)(=O)O.C(C)OC([C@@H](N)C)=O | InChI=1S/C8H10O3S.C5H11NO2/c1-2-7-3-5-8(6-4-7)12(9,10)11;1-3-8-5(7)4(2)6/h3-6H,2H2,1H3,(H,9,10,11);4H,3,6H2,1-2H3/t;4-/m.0/s1
